US06919355B2
6-[4-(4-Fluorobenzyl)piperidin-1-carbonyl]-1,5-dihydro-oxazolo[4,5-f]indole-2-one (4570001484)
The title compound is prepared from 2-oxo-1,5-dihydro-2H-oxazolo[4,5-f]indole-6-carboxylic acid and 4-(4-fluorobenzyl)piperidine [J. Med. Chem., 35, 4903, (1992)] according to the method described in Example 1/c. Mp.: 244-247° C. (diethyl ether).

reactant | 2-oxo-1,5-dihydro-2H-oxazolo[4,5-f]indole-6-carboxylic acid | O=C1OC=2C(=CC=3C=C(NC3C2)C(=O)O)N1 | C10H6N2O4
reactant | 4-(4-fluorobenzyl)piperidine | FC1=CC=C(CC2CCNCC2)C=C1 | C12H16FN
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-[4-(4-Fluorobenzyl)piperidin-1-carbonyl]-1,5-dihydro-oxazolo[4,5-f]indole-2-one | FC1=CC=C(CC2CCN(CC2)C(=O)C=2NC=3C=C4C(=CC3C2)NC(O4)=O)C=C1 | C22H20FN3O3
